US07345067B2
4-(Trifluoromethyl)benzene-1-carbothiamide (5.03 g, 24.5 mmol) was dissolved in 30 ml of EtOH and treated with 1.05 eq of 3-chloro-2,4-pentanedione (3.46 g, 25.7 mmol); the mixture was kept at 55-60° C. over night. Reducing the total volume to ˜¼ and cooling to 0° C. triggered crystallization. Filtration and washing with a tiny amount of cold EtOH afforded 5.49 g of 1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanone (79%) as yellow crystals of, MS: 285 (M+), MP: 89-90° C.

reactant | 4-(Trifluoromethyl)benzene-1-carbothiamide | 24.5 mmol, 5.03 g | FC(C1=CC=C(C=C1)C(N)=S)(F)F | C8H6F3NS
reactant | 3-chloro-2,4-pentanedione | 25.7 mmol, 3.46 g, 1.05 eq | ClC(C(C)=O)C(C)=O | C5H7ClO2
solvent | EtOH | 30 ml | CCO | C2H6O
product | 1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanone | 5.49 g, 79% | CC=1N=C(SC1C(C)=O)C1=CC=C(C=C1)C(F)(F)F | C13H10F3NOS
